US08957073B2
To a mixture of (1H-benzoimidazol-2-yl)-[3-(3-chloro-pyrazin-2-yl)-azetidin-1-yl]-methanone (0.170 g, 0.50 mmol) and piperidin-4-ol (0.101 g, 1.0 mmol) was added triethylamine (0.10 g, 1.0 mmol) and DMSO (4 mL). The solution was heated to 120° C. for 4 h. Then the mixture was diluted with water (10 mL) and extracted with EtOAc (2×20 mL). The combined organic extracts were washed with water (10 mL) and brine (10 mL), dried over Na2SO4 and filtered. The filtrate was evaporated in vacuo and the residue was purified by flash column chromatography on silica gel (20% to 50% EtOAc in petroleum ether) to give (1H-benzoimidazol-2-yl)-{3-[3-(4-hydroxy-piperidin-1-yl)-pyrazin-2-yl]-azetidin-1-yl}-methanone (0.16 g, 0.42 mmol, 85% yield) as a white solid.

reactant | (1H-benzoimidazol-2-yl)-[3-(3-chloro-pyrazin-2-yl)-azetidin-1-yl]-methanone | 0.50 mmol, 0.170 g | N1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)C2=NC=CN=C2Cl | C15H12ClN5O
reactant | piperidin-4-ol | 1.0 mmol, 0.101 g | N1CCC(CC1)O | C5H11NO
reactant | triethylamine | 1.0 mmol, 0.10 g | C(C)N(CC)CC | C6H15N
reactant | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | water | 10 mL | O | H2O
product | (1H-benzoimidazol-2-yl)-{3-[3-(4-hydroxy-piperidin-1-yl)-pyrazin-2-yl]-azetidin-1-yl}-methanone | 0.42 mmol, 0.16 g, 85% yield | N1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)C2=NC=CN=C2N2CCC(CC2)O | C20H22N6O2
